US06124488
A double-walled reactor having a volume of 1 L, provided with baffles, condenser, top stirrer, thermometer and dropping funnel was charged with 400 g of clear 50% strength NaOH (5 mol). Then 9.6 g of Aliquat 336 (24 mmol) and 15.2 g (0.23 mol) of freshly cracked cyclopentadiene were added. The reaction mixture was stirred turbulently for a few minutes. Then 99.8 g of 2-butyl bromide (0.73 mol) were added over a period of half an hour, cooling with water taking place at the same time. After half an hour's stirring at room temperature the reaction mixture was warmed to 70° C., followed by a further three hours' stirring. Stirring was stopped and phase separation was awaited. The water layer was drawn off and 400 g (5.0 mol) of fresh 50% strength NaOH were added, followed by a further two hours' stirring at 70° C. GC was used to show that at that instant more than 90% of tri(2-butyl)cyclopentadiene were present in the mixture of di-, tri- and tetra(2-butyl)cyclopentadiene. The product was distilled at 1 mbar and 91° C. After distillation, 40.9 g of tri(2-butyl)cyclopentadiene were obtained. Characterization took place with the aid of GC, GC-MS, 13C- and 1H-NMR.

reactant | NaOH | 5 mol | [OH-].[Na+]
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
reactant | 2-butyl bromide | 0.73 mol, 99.8 g | CC(CC)Br | C4H9Br
catalyst | Aliquat 336 | 24 mmol, 9.6 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | water | O | H2O
product | tri(2-butyl)cyclopentadiene | 40.9 g | CC(CC)C=1C(=C(CC1)C(C)CC)C(C)CC | C17H30
